US09079866B2
4-{2-[6-(2-Aminopyrimidin-5-yl)pyridin-3-yl]phenoxy}pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 4-(2-bromophenoxy)pyrimidin-2-amine and 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine. MS (ESI): mass calcd. for C19H15N7O, 357.13; m/z found, 358.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.91 (s, 2H), 8.68-8.59 (m, 1H), 8.03 (dd, J=6.9, 0.9, 1H), 7.97-7.89 (m, 1H), 7.83 (d, J=8.3, 1H), 7.60-7.53 (m, 2H), 7.52-7.44 (m, 1H), 7.35 (d, J=7.9, 1H), 6.53 (dd, J=6.9, 0.9, 1H).

reactant | 4-(2-bromophenoxy)pyrimidin-2-amine | BrC1=C(OC2=NC(=NC=C2)N)C=CC=C1 | C10H8BrN3O
reactant | 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C=1C=NC(=NC1)N)C | C15H19BN4O2
product | 4-{2-[6-(2-Aminopyrimidin-5-yl)pyridin-3-yl]phenoxy}pyrimidin-2-amine | NC1=NC=C(C=N1)C1=CC=C(C=N1)C1=C(OC2=NC(=NC=C2)N)C=CC=C1 | C19H15N7O
